US06586617B1
Synthesis of N-(6-Chloro-3-pyridazinyl)-N-methyl-p-toluenesulfonamide (Compound No. 420)
To a suspension of sodium hydride (60%, 0.42 g (10.5 mmol)) in 10.0 ml of DMF, N-methyl-p-toluenesulfonamide (1.85 g (9.99 mmol)) was added under ice-cooling and with stirring. To the resulting mixture, after 15 minutes' stirring under cooling with ice, 3,6-dichloropyridazine (1.49 g (10.0 mmol)) was added. The reaction mixture was stirred at room temperature for one hour, poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was then subjected to silica gel column chromatography with ethyl acetate-hexane (1:3) as eluent, to give 1.41 g (47%) of the title compound as white crystals.

reactant | sodium hydride | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | N-methyl-p-toluenesulfonamide | 9.99 mmol, 1.85 g | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
reactant | 3,6-dichloropyridazine | 10.0 mmol, 1.49 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | water | O | H2O
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | N-(6-Chloro-3-pyridazinyl)-N-methyl-p-toluenesulfonamide | 1.41 g, 47% | ClC1=CC=C(N=N1)N(S(=O)(=O)C1=CC=C(C=C1)C)C | C12H12ClN3O2S
